US05376680
Using an analogous procedure to that described in Example 1 except that the reactants were heated to 60° C. for 2 hours, benzophenone oxime was reacted with 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran to give benzophenone O-}4-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylthio]-α-methylbenzyl}oxime as an oil in 38% yield.

reactant | benzophenone oxime | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NO | C13H11NO
reactant | 4-{3-[4-(1-chloroethyl)phenylthio]-5-fluorophenyl}-4-methoxytetrahydropyran | ClC(C)C1=CC=C(C=C1)SC=1C=C(C=C(C1)F)C1(CCOCC1)OC | C20H22ClFO2S
product | benzophenone | 38% yield | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
